US04771050
In the same manner as in Reference Example 9, methyl 2-bromo-3-methylvalerate (1:1 diastereomer mixture) and 2-aminothiophenol were allowed to react followed by ring closure reaction, to give 2-(1-methylpropyl)-2H-1,4-benzothiazin-3(4H)-one (1:1 diastereomer mixture) as colorless prisms. mp 99°-100° C. (recrystallized from ethanol). Yield 72.6%.

reactant | methyl 2-bromo-3-methylvalerate | BrC(C(=O)OC)C(CC)C | C7H13BrO2
reactant | 2-aminothiophenol | NC1=C(C=CC=C1)S | C6H7NS
product | 2-(1-methylpropyl)-2H-1,4-benzothiazin-3(4H)-one | Yield 72.6% | CC(CC)C1SC2=C(NC1=O)C=CC=C2 | C12H15NOS
